### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): fundamental group is limit of automorphism groups

### PR DESCRIPTION
**Pull request by chrisflav**
We show that the automorphism group of a fiber functor is isomorphic to the limit of the automorphism groups of all Galois objects.

From this we deduce that the automorphism group of a fiber functor acts transitively on the fibers of connected objects. This is the last essential step towards showing that a fiber functor induces a fully faithful embedding into the category of finite `Aut F`-types.

---

- [x] depends on: #12841
- [x] depends on: #12839 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 1]
```diff
@@ -177,6 +186,232 @@ noncomputable def autGaloisSystem : PointedGaloisObject F ⥤ GroupCat.{u₂} wh
...
+noncomputable def autGaloisSystem' : PointedGaloisObject F ⥤ GroupCat.{max u₁ u₂} :=
+  autGaloisSystem F ⋙ GroupCat.uliftFunctor.{u₂, u₁}
+
+@[simp]
+lemma autGaloisSystem'_map {A B : PointedGaloisObject F} (f : A ⟶ B) (φ : Aut (A : C)) :
+    ((autGaloisSystem' F).map f) ⟨φ⟩ = ⟨autMapHom f.val φ⟩ :=
+  rfl
+
+/-- The limit of `autGaloisSystem` computed in `GroupCat.{max u₁ u₂}`. -/
+noncomputable def autGalois : GroupCat.{max u₁ u₂} := limit (autGaloisSystem' F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:199]: In order to define this limit, instead of ulifting+using the limit API, what would you think of using the `Functor.sections` API? (regardless of universes, this is a well defined type, and we have an instance `Group (F ⋙ forget GroupCat.{u}).sections` which is defined in `Algebra.Category.GroupCat.Limits`)

Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: I pushed an attempt. Do you think it's better this way?

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 2]
```diff
@@ -177,6 +188,220 @@ noncomputable def autGaloisSystem : PointedGaloisObject F ⥤ GroupCat.{u₂} wh
...
+
+### Isomorphism between `Aut F` and `autGalois F`
+
+In this section we establish the isomorphism between the automorphism group of `F` and
+the limit over the automorphism groups of all Galois objects.
+
+We first establish the isomorphism between `End F` and `autGalois F`, from which we deduce that
+`End F` is a group, hence `End F = Aut F`. The isomorphism is built in multiple steps:
+
+- `endEquivLimitFibers : End F ≅ limit (incl F ⋙ F')`: the endomorphisms of
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:244]: As we replaced `limit` by `sections`, the docstring should be updated. Otherwise, the PR looks good to me.

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: Yes, it looks better to me!

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: Updated the docstring and renamed one of the isomorphisms.

File: Mathlib/Algebra/Category/GroupCat/Limits.lean [hunk 3]
```diff
@@ -62,6 +62,13 @@ set_option linter.uppercaseLean3 false in
 instance sectionsGroup : Group (F ⋙ forget GroupCat.{u}).sections :=
   (sectionsSubgroup F).toGroup
 
+/-- The projection to a factor as a `MonoidHom`. -/
```
Comment (joelriou) [inline Mathlib/Algebra/Category/GroupCat/Limits.lean:65]: The docstring should make it clear this is about `Function.sections`.

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 4]
```diff
@@ -177,6 +188,221 @@ noncomputable def autGaloisSystem : PointedGaloisObject F ⥤ GroupCat.{u₂} wh
     ext (σ : Aut A.obj)
     simp
 
+/-- The limit of `autGaloisSystem`.  -/
+noncomputable def autGalois : Type (max u₁ u₂) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:192]: This is a type, so that it should be capitalized:
```suggestion
noncomputable def AutGalois : Type (max u₁ u₂) :=
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 5]
```diff
@@ -177,6 +188,221 @@ noncomputable def autGaloisSystem : PointedGaloisObject F ⥤ GroupCat.{u₂} wh
...
+theorem endEquivAutGalois_mul (f g : End F) :
+    (endEquivAutGalois F) (g ≫ f) = (endEquivAutGalois F g) * (endEquivAutGalois F f) := by
+  refine AutGalois.ext F (fun A ↦ evaluation_aut_injective_of_isConnected F A A.pt ?_)
+  simp only [map_mul, endEquivAutGalois_π, Aut.Aut_mul_def, NatTrans.comp_app, Iso.trans_hom]
+  simp only [map_comp, FintypeCat.comp_apply, endEquivAutGalois_π]
+  change f.app A (g.app A A.pt) =
+    (f.app A ≫ F.map ((AutGalois.π F A) ((endEquivAutGalois F) g)).hom) A.pt
+  rw [← f.naturality, FintypeCat.comp_apply, endEquivAutGalois_π]
+
+/-- The monoid isomorphism between endomorphisms of `F` and the (multiplicative oppososite of the)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:331]:
```suggestion
/-- The monoid isomorphism between endomorphisms of `F` and the (multiplicative opposite of the)
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 6]
```diff
@@ -177,6 +188,221 @@ noncomputable def autGaloisSystem : PointedGaloisObject F ⥤ GroupCat.{u₂} wh
...
+      MulEquiv.symm_apply_apply]
+    exact Aut.ext rfl
+  right_inv t := by
+    simp only [MonoidHom.coe_comp, MonoidHom.coe_coe, Function.comp_apply, Aut.toEnd_apply]
+    exact (MulEquiv.eq_symm_apply (endMulEquivAutGalois F)).mp rfl
+  map_mul' := by simp
+
+lemma autMulEquivAutGalois_π (f : Aut F) (A : C) [IsGalois A] (a : F.obj A) :
+    F.map (AutGalois.π F { obj := A, pt := a } (autMulEquivAutGalois F f).unop).hom a
+      = f.hom.app A a := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:367]: Coding style: infix operators have to be before line breaks.
```suggestion
    F.map (AutGalois.π F { obj := A, pt := a } (autMulEquivAutGalois F f).unop).hom a =
      f.hom.app A a := by
```

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by chrisflav** [comment]
bors d+

**Comment by chrisflav** [comment]
Thanks for the review @joelriou !
